US04002623
To a stirred suspension of 20.0 g. (0.086 mole) of N-[3-(1-piperidinyl)propyl]-o-phenylenediamine in 80 ml. water, 20 ml. of isopropanol was added to obtain a homogenous solution. With continued stirring, 21.2 g. (0.200 mole) of cyanogen bromide was added in portions over a one hour period. Room temperature was maintained throughout the addition. After stirring for an additional 2 hours the reaction mixture was allowed to stand overnight. The mixture was then poured into ice-water, made strongly alkaline with KOH and extracted with methylene chloride. The extracts were evaporated to a red oil which crystallized from ether, 7.9 g. (36% yield), m.p. 176°-178° C. An analytical sample of 1-[3-(1-piperidinyl)propyl]-2-amino benzimidazole was obtained by crystallization from benzene-cyclohexane, m.p. 179°-181° C.

reactant | N-[3-(1-piperidinyl)propyl]-o-phenylenediamine | 0.086 mole | N1(CCCCC1)CCCNC1=C(C=CC=C1)N | C14H23N3
reactant | water | O | H2O
reactant | cyanogen bromide | 0.200 mole | N#CBr | CBrN
reactant | KOH | [OH-].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-[3-(1-piperidinyl)propyl]-2-amino benzimidazole | N1(CCCCC1)CCCN1C(=NC2=C1C=CC=C2)N | C15H22N4
